US06712893B1
p-Cresol may be reacted with excess 2-chloroethanol in the presence of sodium hydroxide to give 4-(2-hydroxyethoxy)toluene which may be purified by conventional techniques.

reactant | p-Cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | 2-chloroethanol | ClCCO | C2H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(2-hydroxyethoxy)toluene | OCCOC1=CC=C(C=C1)C | C9H12O2
